US07405210B2
Preparation 15: 1H-Pyrrolo[2,3-c]pyridine-2-carboxylic acid
To a solution of 1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester (Preparation 14, 310 mg, 1.6 mmol) in ethanol (20 mL) was added 2N sodium hydroxide solution (1 mL, 2.0 mmol) and the reaction mixture heated under reflux for 1.5 h then concentrated in vacuo. The residue was dissolved in water (10 mL) and acidified with acetic acid giving an immediate brown precipitate. The solid was filtered and dried to give the title compound as a beige solid. δH (D2O): 7.11 (1H, s), 7.99 (1H, d), 8.05 (1H, d), 8.85 (1H, s); m/z (ES+)=163 [M+H]+.

reactant | 1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester | 1.6 mmol, 310 mg | C(C)OC(=O)C1=CC=2C(=CN=CC2)N1 | C10H10N2O2
reactant | sodium hydroxide | 2.0 mmol, 2N, 1 mL | [OH-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1H-Pyrrolo[2,3-c]pyridine-2-carboxylic acid | N1C(=CC=2C1=CN=CC2)C(=O)O | C8H6N2O2
